US07772238B2
6-Nitro-benzo[b]thiophene-2-carboxylic acid methyl ester.
To a mixture of 2,4-dinitrobenzaldehyde (6.45 g, 32.9 mmol) and K2CO3 (5.45 g, 39.4 mmol) in DMF (60 mL) was slowly added methyl thioglycolate (3.0 mL, 32.9 mmol). The mixture was stirred at RT for 1 h, then at 50° C. for 2 h. The resultant mixture was poured into H2O/ice and stirred until a precipitate formed. The solid was filtered and triturated with hot MeOH. The pale brown solid was filtered. 1H NMR (DMSO-d6) δ 9.13 (s, 1H), 8.33 (s, 1H), 8.30-8.17 (m, 2H), 3.89 (s, 3H). MS (EI): cal'd (MH+) 238.01, exp (MH+) 238.10.

reactant | 2,4-dinitrobenzaldehyde | 32.9 mmol, 6.45 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
reactant | K2CO3 | 39.4 mmol, 5.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl thioglycolate | 32.9 mmol, 3.0 mL | C(CS)(=O)OC | C3H6O2S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-Nitro-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)[N+](=O)[O-] | C10H7NO4S
